US06485886B1
(5-Trichloroacetoxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile
1.0 g (4.1 mmol) of (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile, prepared as described in example 7.1, are dissolved in 11 ml of THF and cooled in an ice bath. After adding 0.83 g (4.5 mmol) of trichloroacetyl chloride to the solution, 0.63 g (6.2 mmol) of triethylamine are added dropwise, keeping the temperature below 5° C. While the reaction mixture is stirred at 5° C. for 20 min, a precipitate is formed. The precipitate is filtered off and washed with THF. The filtrate is concentrated by a rotary evaporator. The residue is diluted with 2-PrOH and stirred at room temperature for 15 min. After cooling the mixture in an ice bath, the solid is isolated by filtration and washed with 2-PrOH. The product is obtained in the form of a yellow solid, 165° C.(Dec). The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 2.39 (s, 3H), 6.23 (d, 1H), 6.86 (d, 1H), 7.19-7.4 (m, 4H).

reactant | (5-Hydroxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | 4.1 mmol, 1.0 g | ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C | C13H10N2OS
reactant | trichloroacetyl chloride | 4.5 mmol, 0.83 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | triethylamine | 6.2 mmol, 0.63 g | C(C)N(CC)CC | C6H15N
solvent | THF | 11 ml | C1CCOC1 | C4H8O
product | (5-Trichloroacetoxyimino-5H-thiophen-2-ylidene)-(2-methylphenyl)-acetonitrile | ClC(C(=O)ON=C1C=CC(S1)=C(C#N)C1=C(C=CC=C1)C)(Cl)Cl | C15H9Cl3N2O2S
